US06599472B1
Iron neodecanoate was prepared by a procedure based on U.S. Pat. No. 2,584,041 Example 14. 86 g (0.5 moles) of neodecanoic acid, 125 g of xylene, 25 g of water, and 12.7 g of iron powder (100 mesh) were charged to a 500 ml round bottom flask equipped with a stirrer, condenser, air inlet tube, and heating. The mixture was heated to reflux and refluxed for 7 hours, cooled and the organic phase separated from the water phase and unreacted Fe. The organic phase contained 65.2 g iron neodecanoate which on removal of the xylene by evaporation was a dark amber viscous liquid, with viscosity 10,000 cps.

reactant | neodecanoic acid | 0.5 moles, 86 g | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | xylene | 125 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | iron | 12.7 g | [Fe] | Fe
solvent | water | 25 g | O | H2O
product | Iron neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Fe+2].C(CCCCCC(C)(C)C)(=O)[O-] | InChI=1S/2C10H20O2.Fe/c2*1-10(2,3)8-6-4-5-7-9(11)12;/h2*4-8H2,1-3H3,(H,11,12);/q;;+2/p-2
